US05478846
N-[4-[4-[4-(4-Fluorobenzoyl)-1-piperidinyl]-1-oxobutyl]phenyl]methanesulfonamide monohydrochloride
A mixture of 4-fluorophenyl-4-piperidinyl methanone (3.1 g, 15.0 mmol) and 2-(3-chloropropyl)-2-(4-methanesulfonamidophenyl)-1,3-dioxolane (4.70 g, 14.7 mmol) was prepared in n-butanol (50 mL), treated with potassium carbonate (2.00 g, 14.5 mmol) and a catalytic amount of potassium iodide, and refluxed for 18 hours. The cooled mixture was diluted with water and ethyl acetate. The layers were separated and the aqueous layer was extracted with ethyl acetate. The combined organic layers were washed with water, brine, dried (MgSO4), filtered, and evaporated to an oil. The oil was dissolved in methanol (200 mL), treated with HCl (25 mL of a 10% solution in water), and stirred for 5 hours. The solution was concentrated, made basic with aqueous 5% sodium bicarbonate, and extracted twice with chloroform. The combined organic layers were washed with water, brine, dried (MgSO4), filtered, and evaporated to a yellow solid. The solid was chromatographed on silica gel, eluting with acetone. The appropriate fractions were combined and evaporated to afford a yellow solid. The solid was dissolved in methanol and treated with a slight excess of HCl in methanol. The solution was concentrated and the resulting solid was recrystallized from methanol/butanone to yield the desired product as a tan powder: mp 205°-210° C. (decomp.).

reactant | 4-fluorophenyl-4-piperidinyl methanone | 15.0 mmol, 3.1 g | FC1=CC=C(C=C1)C(=O)C1CCNCC1 | C12H14FNO
reactant | 2-(3-chloropropyl)-2-(4-methanesulfonamidophenyl)-1,3-dioxolane | 14.7 mmol, 4.70 g | ClCCCC1(OCCO1)C1=CC=C(C=C1)NS(=O)(=O)C | C13H18ClNO4S
reactant | potassium carbonate | 14.5 mmol, 2.00 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | [I-].[K+]
reactant | HCl | Cl | ClH
solvent | n-butanol | 50 mL | C(CCC)O | C4H10O
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | CO | CH4O
product | N-[4-[4-[4-(4-Fluorobenzoyl)-1-piperidinyl]-1-oxobutyl]phenyl]methanesulfonamide monohydrochloride | Cl.FC1=CC=C(C(=O)C2CCN(CC2)CCCC(=O)C2=CC=C(C=C2)NS(=O)(=O)C)C=C1 | InChI=1S/C23H27FN2O4S.ClH/c1-31(29,30)25-21-10-6-17(7-11-21)22(27)3-2-14-26-15-12-19(13-16-26)23(28)18-4-8-20(24)9-5-18;/h4-11,19,25H,2-3,12-16H2,1H3;1H
